US09278950B2
Step 4. Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-vinyl-1,6-naphthyridine-2-carboxylate
A mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-1,6-naphthyridine-2-carboxylate (22 mg, 0.051 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (43 μL, 0.26 mmol), tetrakis(triphenylphosphine)palladium(0) (4 mg, 0.004 mmol), and potassium carbonate (21 mg, 0.15 mmol) in 1,4-dioxane (500 μL) and water (50 μL) in a vial was deoxygenated and purged with nitrogen several times. The vial was sealed under nitrogen and then heated at 95° C. for 3 h. The crude reaction mixture was filtered through a pad of diatomaceous earth and the inorganics were washed thoroughly with EtOAc. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography (24 g silica gel column, eluting with 0-50% EtOAc/hexanes) to afford the sub-title compound (10 mg, 50%). LCMS (ESI) calc. for C21H20N3O4 [M+H]+: m/z=378.1. found: 378.1.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromo-1,6-naphthyridine-2-carboxylate | 0.051 mmol, 22 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=NC=C2C1)Br)C(=O)OCC | C19H16BrN3O4
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 0.26 mmol, 43 μL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 500 μL | O1CCOCC1 | C4H8O2
solvent | water | 50 μL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.004 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-vinyl-1,6-naphthyridine-2-carboxylate | 10 mg, 50% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=NC=C2C1)C=C)C(=O)OCC | C21H19N3O4
